US09029409B2
To a cold solution of N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride (0.1 g, 0.215 mmol, Preparation #K.1) and TEA (0.141 g, 1.4 mmol, Sd Fine Chem) in DCM (10 mL) was added methane sulfonyl chloride (0.032 g, 0.28 mmol, Spectrochem). The reaction mixture was slowly warmed to RT and stirred for about 0.5 h. The reaction mixture was diluted with water (10 mL) and the product extracted with DCM (2×20 mL). The combined organic layers were washed with water (1×25 mL) followed by brine (1×50 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude material obtained was purified using silica gel column chromatography eluted in 60% EtOAc-hexane. Relevant fractions containing the required compound were combined and evaporated to dryness under reduced pressure to afford N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-(methylsulfonyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide as light pale yellow solid 0.065 g (55%): 1H NMR (400 MHz, DMSO): δ 9.501-9.469 (t, J=6.4 Hz, 1H), 8.144 (s, 1H), 7.179-7.135 (m, 2H), 6.901-6.890 (m, 1H), 4.730-4.692 (m, 1H), 4.483-4.467 (d, J=6.4 Hz, 2H), 3.815 (s, 3H), 3.617-3.587 (d, J=12 Hz, 2H), 3.517-3.489 (m, 2H), 2.848 (s, 3H) 2.755 (s, 3H), 2.699-2.639 (m, 2H), 1.896-1.864 (m, 1H), 1.740-1.711 (m, 2H), 1.323-1.236 (m, 2H). LC/MS (Table 1, Method c) Rt=4.71 min MS m/z: 506 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride | 0.215 mmol, 0.1 g | Cl.FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCNCC2)C)C=C1)OC
reactant | methane sulfonyl chloride | 0.28 mmol, 0.032 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-(methylsulfonyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide | 0.065 g, 55% | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCN(CC2)S(=O)(=O)C)C)C=C1)OC | C23H28FN5O5S
